US04288436
2-(2-Propynyloxyimino)-2-(2-aminothiazol-4-yl)-acetic acid (syn isomer)(10.0 g) and 2,2,2-trifluoroacetic anhydride (22.5 g) were reacted in the presence of bis(trimethylsilyl)acetamide (22.3 g) and dry ethyl acetate (100 ml) to give 2-(2-propynyloxyimino)-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid (syn isomer)(11.4 g).

reactant | 2-(2-Propynyloxyimino)-2-(2-aminothiazol-4-yl)-acetic acid | 10.0 g | C(C#C)ON=C(C(=O)O)C=1N=C(SC1)N | C8H7N3O3S
reactant | 2,2,2-trifluoroacetic anhydride | 22.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | bis(trimethylsilyl)acetamide | 22.3 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-propynyloxyimino)-2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]acetic acid | 11.4 g | C(C#C)ON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C10H6F3N3O4S
